US07790885B2
1-(Benzyloxycarbonyl)cyclopropanecarboxylic acid
1,1-Cyclopropanedicarboxylic acid (50 g) was dissolved in acetonitrile (500 ml) under a nitrogen atmosphere, and N-methylimidazole (31 ml) was added dropwise with stirring and cooling in an ice water bath. After stirring at the same temperature for 30 minutes, thionyl chloride (29 ml) was added dropwise. After stirring at the same temperature for 30 minutes, a mixed solution of benzyl alcohol (45.7 g) and N-methylimidazole (31 ml) was added with cooling in an ice water bath, and the reaction mixture was stirred at the same temperature for 6 hours. A 2N aqueous solution of sodium hydroxide (900 ml) was added to adjust pH 8. tert-Butyl methyl ether (500 ml) was added to the resultant solution, and the mixture was stirred. The organic layer and the aqueous layer were separated, and the organic layer was extracted with a 5% aqueous solution of sodium hydrogencarbonate (200 ml). The aqueous layers were combined, cooled in an ice water bath, and 5N hydrochloric acid (300 ml) was added to adjust pH 4. Ethyl acetate (1000 ml) was added, and the mixture was stirred for a while. The organic layer was separated, washed with brine, and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent was dissolved in methanol (120 ml), and water (120 ml) was added dropwise with stirring at room temperature. After stirring at room temperature for 30 minutes, and with cooling in an ice water bath for 2 hours, the precipitated solid was suction filtered, and washed with water (60 ml, twice). The resultant solid was dried under reduced pressure at 40° C. to give the title compound (59 g, 69%).

reactant | 1,1-Cyclopropanedicarboxylic acid | 50 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | N-methylimidazole | 31 ml | CN1C=NC=C1 | C4H6N2
reactant | thionyl chloride | 29 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzyl alcohol | 45.7 g | C(C1=CC=CC=C1)O | C7H8O
reactant | N-methylimidazole | 31 ml | CN1C=NC=C1 | C4H6N2
reactant | sodium hydroxide | 900 ml | [OH-].[Na+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | tert-Butyl methyl ether | 500 ml | COC(C)(C)C | C5H12O
product | 1-(Benzyloxycarbonyl)cyclopropanecarboxylic acid | 59 g, 69% | C(C1=CC=CC=C1)OC(=O)C1(CC1)C(=O)O | C12H12O4
